US07273875B2
4-Iodo-cyclohexanecarboxylic acid ethyl ester—Compound B
To a cold (0° C.) stirred solution of 4-hydroxy-cyclohexanecarboxylic acid ethyl ester (1.0 g, 5.80 mmol) in 1:2 CH2Cl2/CCl4 (52 ml) is added triphenylphosphine (1.82 g, 6.96 mmol), imidazole (473 mg, 6.96 mmol), and iodine (1.79 g, 7.08 mmol). The reaction is allowed to warm to room temperature and stirred overnight. The reaction is quenched by the addition of saturated sodium thiosulphate (c.a. 50 ml) and stirred until the solution becomes clear. The layers are separated and the aqueous layer is extracted with CH2Cl2 (3×30 ml). The combined organic phases are washed with sodium thiosulphate (30 ml), brine (30 ml), dried with anhydrous MgSO4, filtered and evaporated at reduced pressure to an oily solid. Purification by dry flash chromatography, Keiselgel 15-40 grade silica, eluting with 3% ethyl acetate/iso hexane yields the title compound as a clear colourless oil.

reactant | 4-hydroxy-cyclohexanecarboxylic acid ethyl ester | 5.80 mmol, 1.0 g | C(C)OC(=O)C1CCC(CC1)O | C9H16O3
reactant | CH2Cl2 CCl4 | 52 ml | C(Cl)Cl.C(Cl)(Cl)(Cl)Cl
reactant | triphenylphosphine | 6.96 mmol, 1.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 6.96 mmol, 473 mg | N1C=NC=C1 | C3H4N2
reactant | iodine | 7.08 mmol, 1.79 g | II | I2
product | 4-Iodo-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)I | C9H15IO2
